US05622952
Preparation of 6-Iodo-1,4-dihydro-2,3-quinoxalinedione
Synthesis of 6-1-do-1,4-dihydro-2,3-quinoxalinedione: The procedure of Foged, C. and Journal, P. (J. of Lab. Compd. and Radiopharmac. XXXI (5):365-373 (1992)) was adapted. To a stirred mixture of 2-nitro-4-iodoaniline (1.8 g, 6.9 mMol) in ethanol (40 mL) was added SnCl2.2H2O (7.8 g, 34.6 mMol) in one portion. The mixture was refluxed at 80° C. (oil bath 90° C.) with stirring for 0.5 h to form a clear solution and the reflux was continued for another 1.5 h. The solution was cooled to room temperature and ice water (100 g) was added. The pH was adjusted to pH~7 and the mixture was extracted with ethyl acetate. The extract was dried over MgSO4 and concentrated to dryness to give 1.235 g (78%) of title compound as a brown solid. To a stirred mixture of this product (450 mg, 1.92 mMol) in 4N HCl (20 mL) was added oxalic acid (267 mg, 2.115 mMol, used as received) in one portion. The mixture was refluxed at 120°-5° C. for 3 h, then cooled to room temperature overnight. The mixture was centrifuged and the red precipitate was washed with cold water (2×2 mL), collected by filtration and dried at 60° C. at reduced pressure for 2 h, affording 140 mg (25%) of crude product as a white powder. The sample was dissolved in 1N NaOH (10 mL), filtered, and the filtrate was acidified to pH=6, affording 130 mg of product which was washed with EtOH (2 mL). Crystallization from DMSO/H2O gave 19 mg of pure title compound as white microcrystals, mp: 355°-7° C. IR (KBr, cm-1) 3459, 3148, 1750, 1704, 1392. NMR (1H, DMSO-d6): δ6.727 (d, J=8.1 Hz, 1H), 7.053 (dd, J1 =1.8 Hz, J2 =8.4 Hz, 1H), 11.952 (s, 1H), 11.998 (s, 1H). HRMS: calcd for C8H5N2O2I (M+) m/z 287.9393. Found: 287.9390. Potency relative to DCK: 4.7%.

reactant | 2-nitro-4-iodoaniline | 6.9 mMol, 1.8 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)I | C6H5IN2O2
reactant | SnCl2.2H2O | 34.6 mMol, 7.8 g | O.O.Cl[Sn]Cl
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | 6-Iodo-1,4-dihydro-2,3-quinoxalinedione | 1.235 g, 78% | IC=1C=C2NC(C(NC2=CC1)=O)=O | C8H5IN2O2
